US04578522
A solution of 2-bromobenzaldehyde (451.9 g, 2.44 mol), trimethyl orthoformate (324 g, 3.05 mol) and concentrated hydrochloric acid (4.0 ml, 0.05 mol) in methanol (2 L) was refluxed for four hours. The volatile components were evaporated on the rotary evaporator and the residue dried over anhydrous potassium carbonate, filtered, and distilled (66°-72° C. at 0.1-0.2 mm) to give 474.1 g (84%) of the 2-Bromobenzaldehyde Dimethyl Acetal compound as a colorless oil. 'H NMR (CDCl3): 3.35 (s, 6, OCH3), 5.50 (s, 1, CH), 7.5 (m, 4, Ar--H).

reactant | 2-bromobenzaldehyde | 2.44 mol, 451.9 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | trimethyl orthoformate | 3.05 mol, 324 g | C(OC)(OC)OC | C4H10O3
solvent | methanol | 2 L | CO | CH4O
catalyst | hydrochloric acid | 0.05 mol, 4.0 ml | Cl | ClH
product | 2-Bromobenzaldehyde Dimethyl Acetal | 474.1 g, 84% | COC(C1=C(C=CC=C1)Br)OC | C9H11BrO2
